US04324743
25.4 mg. (0.1 mmoles) of gamma-L-glutamyl-taurine are treated with 13 μl. of benzoyl chloride as described in Example 12. The reaction mixture is processed as described in Example 12 to obtain N-benzoyl-gamma-L-glutamyl-taurine, which is purified by paper electrophoresis using a pH 6.5 buffer solution. Relative motility (related to cysteinic acid): 1.06. Rf =0.47 (in a 15:10:3:12 mixture of n-butanol, pyridine, glacial acetic acid and water).

reactant | gamma-L-glutamyl-taurine | 0.1 mmoles | N[C@@H](CCC(=O)NCCS(=O)(=O)O)C(=O)O | C7H14N2O6S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-benzoyl-gamma-L-glutamyl-taurine | C(C1=CC=CC=C1)(=O)N[C@@H](CCC(=O)NCCS(=O)(=O)O)C(=O)O | C14H18N2O7S
